US06498169B1
Synthesis of 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]piperidine-4-carboxamide
Piperidine-4-carboxamide (385 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (881 mg) were condensed by the same method as described in Example 2 to give the title compound as white needles.

reactant | Piperidine-4-carboxamide | 385 mg | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 881 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]piperidine-4-carboxamide | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCC(CC1)C(=O)N | C21H27N3O4
